data/polar.json
{"reaction_name": "Conjugate hydrophosphination", "rsmi": "[H:7][P:10]([CH3:8])[CH3:9].[O:1]=[C:6]([CH:3]=[CH2:4])[O:5][CH3:2]>>[O:1]=[C:6]([CH:3]([CH2:4][P:10]([CH3:8])[CH3:9])[H:7])[O:5][CH3:2]", "epd": [["LP-/Sigma+", [10], [4, 10]], ["Pi-/Sigma+", [3, 4], [3, 7]], ["Sigma-/LP+", [7, 10], [10]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:1][n+:8]1[o:43][n:16][c:9]2[c:14]3[n+:4]([O-:23])[o:2][n:38][c:15]3[c:30]([N+:3]([O-:39])=[O:44])[cH:10][c:45]12.[c:5]1([P:37]([c:6]2[cH:18][cH:25][c:41]([N:12]([CH3:33])[CH3:34])[cH:26][cH:19]2)[c:7]2[cH:20][cH:27][c:42]([N:13]([CH3:35])[CH3:36])[cH:28][cH:21]2)[cH:17][cH:24][c:40]([N:11]([CH3:31])[CH3:32])[cH:29][cH:22]1>>[O-:1][n+:8]1[o:43][n:16][c:9]2[c:45]1[CH:10]([P+:37]([c:5]1[cH:17][cH:24][c:40]([N:11]([CH3:31])[CH3:32])[cH:29][cH:22]1)([c:6]1[cH:18][cH:25][c:41]([N:12]([CH3:33])[CH3:34])[cH:26][cH:19]1)[c:7]1[cH:20][cH:27][c:42]([N:13]([CH3:35])[CH3:36])[cH:28][cH:21]1)[C:30](=[N+:3]([O-:39])[O-:44])[c:15]1[c:14]-2[n+:4]([O-:23])[o:2][n:38]1", "epd": [["LP-/Sigma+", [37], [37, 10]], ["Pi-/Pi+", [10, 30], [30, 3]], ["Pi-/LP+", [3, 44], [44]]]}
{"reaction_name": "Difluoromethylsilane addition", "rsmi": "[CH:1]([Si:8]([CH3:2])([CH3:3])[CH3:4])([F:9])[F:10].[O:5]=[CH:7][CH3:6]>>[CH:1]([CH:7]([O:5][Si:8]([CH3:2])([CH3:3])[CH3:4])[CH3:6])([F:9])[F:10]", "epd": [["Pi-/Sigma+", [5, 7], [5, 8]], ["Sigma-/Sigma+", [1, 8], [1, 7]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:3]=[S:6](=[O:4])([C:8]([F:30])([F:31])[F:32])[c:25]1[cH:18][c:7]2[n+:12]([O-:5])[o:29][n:14][c:36]2[c:23]([N+:15]([O-:13])=[O:19])[cH:27]1.[cH:1]1[c:28]([CH:16]=[C:20]2[S:10][c:24]3[cH:21][cH:11][cH:17][cH:9][c:22]3[N:37]2[CH3:26])[cH:2][cH:34][cH:35][cH:33]1>>[cH:1]1[c:28]([CH:16]([CH:18]2[c:7]3[n+:12]([O-:5])[o:29][n:14][c:36]3[C:23](=[N+:15]([O-:13])[O-:19])[CH:27]=[C:25]2[S:6](=[O:3])(=[O:4])[C:8]([F:30])([F:31])[F:32])[c:20]2[s:10][c:24]3[cH:21][cH:11][cH:17][cH:9][c:22]3[n+:37]2[CH3:26])[cH:2][cH:34][cH:35][cH:33]1", "epd": [["LP-/Pi+", [37], [20, 37]], ["Pi-/Sigma+", [16, 20], [16, 18]], ["Pi-/Pi+", [18, 25], [25, 27]], ["Pi-/Pi+", [27, 23], [23, 15]], ["Pi-/LP+", [15, 19], [19]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:1](=[O+:36][CH3:35])[c:37]1[cH:23][cH:21][cH:5][cH:22][cH:24]1.[c:2]1([P:31]([c:3]2[cH:10][cH:16][c:33]([N:7]([CH3:27])[CH3:28])[cH:17][cH:11]2)[c:4]2[cH:12][cH:18][c:34]([N:8]([CH3:29])[CH3:30])[cH:19][cH:13]2)[cH:9][cH:15][c:32]([N:6]([CH3:25])[CH3:26])[cH:20][cH:14]1>>[CH:1]([P+:31]([c:2]1[cH:9][cH:15][c:32]([N:6]([CH3:25])[CH3:26])[cH:20][cH:14]1)([c:3]1[cH:10][cH:16][c:33]([N:7]([CH3:27])[CH3:28])[cH:17][cH:11]1)[c:4]1[cH:12][cH:18][c:34]([N:8]([CH3:29])[CH3:30])[cH:19][cH:13]1)([O:36][CH3:35])[c:37]1[cH:23][cH:21][cH:5][cH:22][cH:24]1", "epd": [["LP-/Sigma+", [31], [31, 1]], ["Pi-/LP+", [1, 36], [36]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:2]1([Cl:20])=[C:3]([Cl:21])[C:9](=[O:11])[C:18]([C:26]#[N:28])=[C:19]([C:27]#[N:29])[C:8]1=[O:10].[CH:1]([C:12](=[O:13])[c:15]1[cH:4][cH:23][c:14]([N:22]([CH3:16])[CH3:17])[cH:24][cH:5]1)=[S:25]([CH3:6])[CH3:7]>>[CH:1]([C:12](=[O:13])[c:15]1[cH:4][cH:23][c:14]([N:22]([CH3:16])[CH3:17])[cH:24][cH:5]1)([C:18]1([C:26]#[N:28])[C:9](=[O:11])[C:3]([Cl:21])=[C:2]([Cl:20])[C:8]([O-:10])=[C:19]1[C:27]#[N:29])[S+:25]([CH3:6])[CH3:7]", "epd": [["Pi-/Sigma+", [1, 25], [1, 18]], ["Pi-/Pi+", [18, 19], [19, 8]], ["Pi-/LP+", [8, 10], [10]]]}
{"reaction_name": "Electrophilic sulfenylation of enolates", "rsmi": "[CH2-:1][C:6]([CH3:2])=[O:3].[S:4]([CH3:5])[Cl:7]>>[CH2:1]([S:4][CH3:5])[C:6]([CH3:2])=[O:3].[Cl-:7]", "epd": [["LP-/Sigma+", [1], [1, 4]], ["Sigma-/LP+", [4, 7], [7]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[CH2:10]1[N:22]2[CH2:11][CH2:26][N:14]([CH2:47][c:16]3[cH:28][cH:32][cH:38][cH:33][cH:29]3)[c:36]3[c:19]2[c:35]([cH:23][n:21][cH:24]3)[N:13]([CH2:46][c:15]2[cH:27][cH:31][cH:37][cH:34][cH:30]2)[CH2:25]1.[O:1]=[C:42]1[N:5]([CH3:39])[C:41](=[O:7])[N:6]([CH3:40])[C:43](=[O:2])[C:17]1=[CH:20][c:8]1[cH:44][cH:3][c:18]([O:12][CH3:9])[cH:4][cH:45]1>>[O-:1][c:42]1[n:5]([CH3:39])[c:41](=[O:7])[n:6]([CH3:40])[c:43](=[O:2])[c:17]1[CH:20]([c:8]1[cH:44][cH:3][c:18]([O:12][CH3:9])[cH:4][cH:45]1)[N:21]1[CH:23]=[C:35]2[N:13]([CH2:46][c:15]3[cH:27][cH:31][cH:37][cH:34][cH:30]3)[CH2:25][CH2:10][N+:22]3=[C:19]2[C:36](=[CH:24]1)[N:14]([CH2:47][c:16]1[cH:28][cH:32][cH:38][cH:33][cH:29]1)[CH2:26][CH2:11]3", "epd": [["LP-/Pi+", [22], [19, 22]], ["Pi-/Pi+", [35, 19], [23, 35]], ["Pi-/Sigma+", [21, 23], [21, 20]], ["Pi-/Pi+", [20, 17], [17, 42]], ["Pi-/LP+", [42, 1], [1]]]}
{"reaction_name": "β-Fragmentation of alkoxides", "rsmi": "[O-:1][CH:5]([CH2:3][CH2:2][Br:6])[CH3:4]>>[Br-:6].[CH2:2]=[CH2:3].[O:1]=[CH:5][CH3:4]", "epd": [["Sigma-/Pi+", [3, 5], [2, 3]], ["LP-/Pi+", [1], [1, 5]], ["Sigma-/LP+", [2, 6], [6]]]}
